US06864265B2
N-(tert-butoxycarbonyl)-2-(2-Chloroethyl)-benzimidazole
To a solution of 2-(2-Chloroethyl)-1H-benzimidazole (205 mg. 1.13 mmol) in DMF (8 mL) was added N,N-diisopropylethylamine (0.42 mL, 2.41 mmol) and di-tert-butyl dicarbonate (272 mg, 1.24 mmol). The resulting solution was allowed to stir for 16 hours at room temperature under N2 and then concentrated. The residues was diluted with 300-mL ethyl acetate, and washed with sat. NaHCO3, brine and dried over Na2SO4. Evaporation of the solvent and purification of the residue by column chromatography on silica gel (50% ethyl acetate in CH2Cl2) gave the title compound (183 mg, 57%) as a white solid. 1H NMR (CDCl3) □1.73 (s, 9H), 3.69 (t, 2H, J=7.4 Hz), 4.05 (t, 2H, J=7.4 Hz), 7.30-7.36 (m, 2H), 7.68-7.74 (m, 1H), 7.90-7.95 (m, 1H); ES-MS m/z 281.0 (M+H).

reactant | 2-(2-Chloroethyl)-1H-benzimidazole | 1.13 mmol, 205 mg | ClCCC1=NC2=C(N1)C=CC=C2 | C9H9ClN2
reactant | N,N-diisopropylethylamine | 2.41 mmol, 0.42 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 1.24 mmol, 272 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-(tert-butoxycarbonyl)-2-(2-Chloroethyl)-benzimidazole | 183 mg, 57% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCCl | C14H17ClN2O2
